US05932571
Synthesis of 4-(1-(allyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt
Combine 1-t-butoxycarbonyl-4-(1H-benzimidazol-2-yl)[1,4]diazepane (0.8 g, 2.5 mmol) in dimethylformamide (10 mL). Add sodium hydride (0.13 g, 60% in oil, 3.25 mmol). After about 30 minutes, when the gas evolution ceases, add allyl bromide (0.35 mL 4.0 mmol). Heat to 75° C. After 4 hours, dilute with ethyl acetate and extract with a saturated aqueous sodium bicarbonate solution and then brine. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give 1-t-butoxycarbonyl-4-(1-(allyl)-1H-benzimidazol-2-yl)[1,4]diazepane: Rf =0.83 (silica gel, 10% methanol/dichloromethane/0.1% concentrated aqueous ammonia). Combine 1-t-butoxycarbonyl-4-(1-(allyl)-1H-benzimidazol-2-yl)[1,4]diazepane (0.9 g, 2.5 mmol) and ethanol (10 mL). Add aqueous hydriodic acid (10 mL, 57%). Heat to reflux. After 1 hour, cool to ambient temperature and dilute with diethyl ether (250 mL) and stir to give a solid. Collect the solid by filtration, rinse with diethyl ether, and dry to give the title compound.

reactant | methanol dichloromethane | CO.ClCCl
reactant | 1-t-butoxycarbonyl-4-(1-(allyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 2.5 mmol, 0.9 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CC=C)C=CC=C2 | C20H28N4O2
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | hydriodic acid | 10 mL | I | HI
solvent | diethyl ether | 250 mL | C(C)OCC | C4H10O
product | 4-(1-(allyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt | I.C(C=C)N1C(=NC2=C1C=CC=C2)N2CCNCCC2 | InChI=1S/C15H20N4.HI/c1-2-10-19-14-7-4-3-6-13(14)17-15(19)18-11-5-8-16-9-12-18;/h2-4,6-7,16H,1,5,8-12H2;1H
